US07199274B2
4-tert-Butyl-2′,3′-dimethylbiphenyl
23.8 g (1.1 eq.) of magnesium (for Grignard reactions from Aldrich) were suspended in 95 ml of tetrahydrofuran (THF) and activated by addition of a small amount of iodine. 62.7 g (0.45 mol) of 2,3-dimethylchlorobenzene were subsequently added. To start the Grignard reaction, a few drops of 1,2-dibromoethane were carefully added. After the reaction had been started successfully, the remaining 62.7 g (0.45 mol) of 2,3-dimethylchlorobenzene diluted with 380 ml of THF were added dropwise at such a rate that the reaction solution boiled gently. The reaction mixture was subsequently refluxed until the magnesium had mostly reacted (2 hours). After the reaction mixture had cooled to room temperature, a further 95 ml of THF were added to the viscous mixture. 190.0 g (0.89 mol) of p-tert-butylbromobenzene diluted with 190 ml of THF were placed in a further reaction flask. 1.0 g (1 mol %) of nickel(II) chloride was added thereto, followed by careful addition of the Grignard solution. The temperature rose briefly to 80° C. The reaction mixture was stirred at 50–55° C. for 2 hours. After cooling to room temperature, 190 ml of 2 molar hydrochloric acid were carefully added. The aqueous phase was extracted with diethyl ether (3×200 ml), the combined organic phases were dried over magnesium sulfate and the solvent was removed under reduced pressure. The residue was recrystallized from boiling ethanol and two crystal fractions were obtained (1st fraction: 139.3 g, 100% according to GC/2nd fraction: 20.5 g, 96.2% according to GC). Combined yield: 159.8 g (0.67 mol/75%). 1H NMR (400 MHz, CDCl3): δ=7.41 (“d”, 2H, aromatic), 7.21 (“d”<2H, aromat.), 7.14–7.07 (m, 3H, aromat.), 2.33 (s, 3H, CH3), 2.16 (s, 3H, CH3), 1.36 (s, 9H, tert-butyl) ppm.

reactant | magnesium | 23.8 g, 1.1 eq. | [Mg] | Mg
reactant | iodine | II | I2
reactant | 2,3-dimethylchlorobenzene | 0.45 mol, 62.7 g | CC1=C(C=CC=C1C)Cl | C8H9Cl
reactant | 2,3-dimethylchlorobenzene | 0.45 mol, 62.7 g | CC1=C(C=CC=C1C)Cl | C8H9Cl
reactant | p-tert-butylbromobenzene | 0.89 mol, 190.0 g | C(C)(C)(C)C1=CC=C(C=C1)Br | C10H13Br
reactant | hydrochloric acid | 2 molar, 190 ml | Cl | ClH
solvent | tetrahydrofuran | 95 ml | O1CCCC1 | C4H8O
catalyst | 1,2-dibromoethane | a few drops | BrCCBr | C2H4Br2
solvent | THF | 380 ml | O1CCCC1 | C4H8O
solvent | THF | 190 ml | O1CCCC1 | C4H8O
catalyst | nickel(II) chloride | 1.0 g | [Ni](Cl)Cl
solvent | THF | 95 ml | O1CCCC1 | C4H8O
product | 4-tert-Butyl-2′,3′-dimethylbiphenyl | C(C)(C)(C)C1=CC=C(C=C1)C1=C(C(=CC=C1)C)C | C18H22
